US06617339B1
3-(1-Triphenylmethyl-4-imidazolyl)propionic Acid
3-(4-Imidazolyl)propionic acid (1.0 g, 7.1 mmol) was suspended in a mixture of dichloromethane (5 ml) and acetonitrile (25 ml). Trimethylsilyl chloride (781 mg, 7.2 nmmol) was added and the mixture refluxed for 4 hours. Triethylamine (1 ml) was added, and refluxing continued for 15 minutes. Cooled, triethylamine (1 ml) added followed by chlorotriphenylmethane (1.99 g, 7.1 mmol) in dichloromethane (10 ml), and the mixture stirred at ambient temperature for 2 hours. MeOH (20 ml) was added, the mixture stirred for 30 minutes, then evaporated to dryness. Water (50 ml) was added to the residue, and the pH adjusted to 8-8.5 with triethylamine. The precipitate was filtered off, washed with diethyl ether, and dried to give the desired product (2.25 g). MS (ESP): 383 (MH+) for C25H22N2O2;

reactant | 3-(4-Imidazolyl)propionic acid | 7.1 mmol, 1.0 g | N1C=NC(=C1)CCC(=O)O | C6H8N2O2
reactant | Trimethylsilyl chloride | 781 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | Triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotriphenylmethane | 7.1 mmol, 1.99 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | MeOH | 20 ml | CO | CH4O
product | 3-(1-Triphenylmethyl-4-imidazolyl)propionic Acid | 2.25 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O2
